US09447091B2
b) N-(5-amino-4′-methoxybiphenyl-3-yl)acetamide
To a solution of N-(4′-methoxy-5-nitrobiphenyl-3-yl)acetamide (4 g, 13.98 mmol) in ethanol (50 ml) were added calcium chloride (3.1 g, 27.96 mmol, 2 eq.) and iron powder (1.45 g, 27.96 mmol, 2 eq.) and the mixture was heated at 100° C. for 2 h and filtered. The filtrate was diluted with water and extracted as in Example 1(d). The solvent was distilled off to afford the product in 87% yield (3.1 g).

reactant | N-(4′-methoxy-5-nitrobiphenyl-3-yl)acetamide | 13.98 mmol, 4 g | COC1=CC=C(C=C1)C1=CC(=CC(=C1)[N+](=O)[O-])NC(C)=O | C15H14N2O4
reactant | calcium chloride | 27.96 mmol, 3.1 g, 2 eq. | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 27.96 mmol, 1.45 g, 2 eq. | [Fe] | Fe
product | N-(5-amino-4′-methoxybiphenyl-3-yl)acetamide | 87% yield | NC=1C=C(C=C(C1)C1=CC=C(C=C1)OC)NC(C)=O | C15H16N2O2
